US09029370B2
(S)-tert-Butyl 2-(4-(1-(4-(difluoromethoxy)phenyl)-1H-1,2,3-triazole-4-carboxamido)-3-fluorophenyl)morpholine-4-carboxylate (62 mg, 0.116 mmol) was dissolved in dioxane (0.6 ml) and a solution of HCl in dioxane (4M, 0.35 ml, 1.39 mmol) was added. The reaction mixture was stirred for 2 h at 60° C. After cooling ether was added, the solid was filtered off, washed with ether and dried in vacuo to afford (S)-1-(4-(difluoromethoxy)phenyl)-N-(2-fluoro-4-(morpholin-2-yl)phenyl)-1H-1,2,3-triazole-4-carboxamide hydrochloride (53 mg, 97%) as a white solid. MS (ISP): 434.4 ([M+H]+).

reactant | (S)-tert-Butyl 2-(4-(1-(4-(difluoromethoxy)phenyl)-1H-1,2,3-triazole-4-carboxamido)-3-fluorophenyl)morpholine-4-carboxylate | 0.116 mmol, 62 mg | FC(OC1=CC=C(C=C1)N1N=NC(=C1)C(=O)NC1=C(C=C(C=C1)[C@H]1CN(CCO1)C(=O)OC(C)(C)C)F)F | C25H26F3N5O5
reactant | HCl | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | dioxane | 0.6 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.39 mmol, 4M, 0.35 ml | O1CCOCC1 | C4H8O2
product | (S)-1-(4-(difluoromethoxy)phenyl)-N-(2-fluoro-4-(morpholin-2-yl)phenyl)-1H-1,2,3-triazole-4-carboxamide hydrochloride | 53 mg, 97% | Cl.FC(OC1=CC=C(C=C1)N1N=NC(=C1)C(=O)NC1=C(C=C(C=C1)[C@H]1CNCCO1)F)F | InChI=1S/C20H18F3N5O3.ClH/c21-15-9-12(18-10-24-7-8-30-18)1-6-16(15)25-19(29)17-11-28(27-26-17)13-2-4-14(5-3-13)31-20(22)23;/h1-6,9,11,18,20,24H,7-8,10H2,(H,25,29);1H/t18-;/m1./s1
